US05223633
Ethyl 2,2,4,4-tetramethyl-1,3-oxazolidine-3-carboxylate
12.11 g (100.0 mmol) of 2,2,4,4-tetramethyl-1,3-oxazolidine (can also be employed in the form of the mixed fraction) were added gradually at room temperature to a solution of 5.43 g (50.0 mmol) of ethyl chloroformate in 50 ml of dry dichloromethane. After stirring for 16 hours, the reaction mixture was poured into 40 ml of 2N HCl. The phases were separated, the aqueous phase was extracted three times with 20 ml of ether each time and the combined organic phases were deacidified and dried over solid sodium hydrogen sulphate and sodium sulphate in the amount ratio 1:2. After the removal of the solvent in vacuo at a maximum of 100 mbar/40° C. bath temperature, the crude product was distilled under reduced pressure. 8.05 g (80%) of the title compound were obtained as a colorless liquid of b.p.: 87° C./10 mbar and RF =0.61 (silica gel, ether/pentane 1:1).

reactant | 2,2,4,4-tetramethyl-1,3-oxazolidine | 100.0 mmol, 12.11 g | CC1(OCC(N1)(C)C)C | C7H15NO
reactant | ethyl chloroformate | 50.0 mmol, 5.43 g | ClC(=O)OCC | C3H5ClO2
reactant | HCl | 2N, 40 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 2,2,4,4-tetramethyl-1,3-oxazolidine-3-carboxylate | 8.05 g, 80% | CC1(OCC(N1C(=O)OCC)(C)C)C | C10H19NO3
